US07595323B2
3-Nitrophenyl-guanidine nitrate (28 g, 0.12 mol) and 3-dimethylamino-1-(3-pyridyl)-2-propen-1-one (16.9 g, 0.09 mol) were reacted according to the same procedure as Step 1.3 of Preparation 1 to give N-(3-nitrophenyl)-4-(3-pyridyl)-2-pyrimidine-amine (18.4 g).

reactant | 3-Nitrophenyl-guanidine nitrate | 0.12 mol, 28 g | [N+](=O)(O)[O-].[N+](=O)([O-])C=1C=C(C=CC1)NC(=N)N
reactant | 3-dimethylamino-1-(3-pyridyl)-2-propen-1-one | 0.09 mol, 16.9 g | CN(C=CC(=O)C=1C=NC=CC1)C | C10H12N2O
product | N-(3-nitrophenyl)-4-(3-pyridyl)-2-pyrimidine-amine | 18.4 g | [N+](=O)([O-])C=1C=C(C=CC1)NC1=NC=CC(=N1)C=1C=NC=CC1 | C15H11N5O2
